US08530648B2
a) tert-butyl 1-oxo-2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecane-9-carboxylate
To a solution of diisopropylamine (1.238 mL, 8.60 mmol) in THF (40 mL) n-butyllithium (6.01 mL, 9.61 mmol) was added at 0° C. and the mixture was stirred for 30 min at 0° C. Then a solution of tert-butyl 1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate [1198284-94-4] (2.57 g, 9.28 mmol) in THF (10 mL) was added within 3 min and the mixture was stirred for 30 min at 0° C. 3-(bromomethyl)-1-tosyl-1H-indole [58550-81-5] (3.2 g, 8.43 mmol) in THF (10 mL) was dropped to the reaction mixture within 15 min. The mixture was stirred at 0° C. for 1 h and allowed to warm to room temperature overnight. The reaction mixture was quenched with ice-cold water and extracted with TBME (2×150 mL). The combined organic layers were washed with 5% aqueous citric acid and brine, dried over anhydrous Na2SO4, filtered and concentrated (5.3 g, 100%). [1H NMR (400 MHz, DMSO-d8) ♀ ppm 7.88 (d, J=8.28 Hz, 1H), 7.81 (d, J=8.28 Hz, 2H), 7.74 (s, 1H), 7.55 (d, J=7.78 Hz, 1H), 7.36 (d, J=8.03 Hz, 2H), 7.32 (t, J=7.91 Hz, 1H), 7.25-7.21 (m, 1H), 4.58 (s, 2H), 3.75-3.63 (m, 2H), 3.09 (t, J=5.77 Hz, 2H), 2.99 (br. s., 2H), 2.30 (s, 3H), 1.90-1.80 (m, 2H), 1.72-1.57 (m, 4H), 1.39 (s, 9H), 1.36-1.28 (m, 2H); LCMS RtA=1.37 min, [M+H]+=552.3].

reactant | diisopropylamine | 8.60 mmol, 1.238 mL | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl 1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate | 9.28 mmol, 2.57 g | O=C1NCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H24N2O3
reactant | 3-(bromomethyl)-1-tosyl-1H-indole | 8.43 mmol, 3.2 g | BrCC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1 | C16H14BrNO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 9.61 mmol, 40 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-oxo-2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecane-9-carboxylate | O=C1N(CCCC12CCN(CC2)C(=O)OC(C)(C)C)CC2=CN(C1=CC=CC=C21)S(=O)(=O)C2=CC=C(C)C=C2 | C30H37N3O5S
